US05059607
Synthesis of 1,2-dihydrobenz[1,2-h]isoquinolin-1-one
A solution of n-Bu3N (1.3 ml) in diphenyl ether (5 ml) was heated at 230° C. A solution of the compound prepared in Reference Example 2 in diphenyl ether was added to the solution dropwise. After cooling, hexane was added to the reaction solution. The solids deposited were gathered by filtration. The solids were washed with hexane, and dried to give the title compound (655 mg) having the following physical data.

reactant | n-Bu3N | 1.3 ml | N(CCCC)(CCCC)CCCC | C12H27N
reactant | hexane | CCCCCC | C6H14
reactant | diphenyl ether | 5 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1,2-dihydrobenz[1,2-h]isoquinolin-1-one | 655 mg | C1(NC=CC2=CC=C3C(=C12)C=CC=C3)=O | C13H9NO
